US20010020034A1
3-(4-Chloro-2,6-difluoro-benzyloxy)-5-{3-[3-(4-methyl-piperazin-1-yl)-propyl]-ureido} -isothiazole-4-carboxylic acid amide-Hydrochloride Salt
The title compound was prepared from [4-carbamoyl-3-(2,6-difluoro-4-chloro-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester and 3-(4-methyl-piperazin-1-yl)-propylamine by the procedure analogous to Example 6. 1H NMR (400 MHz, D2O) δ 6.86 (bm, 2H), 5.20 (s, 2H), 3.4-2.6 (bm, 8H), 3.10 (b, 2H), 2.63 (b, 5H), 1.67 (m, 2H) ppm; MS (APCl, m/z): 503 [M+H]+.

reactant | [4-carbamoyl-3-(2,6-difluoro-4-chloro-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)OCC1=C(C=C(C=C1F)Cl)F)C(N)=O)=O | C18H12ClF2N3O4S
reactant | 3-(4-methyl-piperazin-1-yl)-propylamine | CN1CCN(CC1)CCCN | C8H19N3
product | 3-(4-Chloro-2,6-difluoro-benzyloxy)-5-{3-[3-(4-methyl-piperazin-1-yl)-propyl]-ureido} -isothiazole-4-carboxylic acid amide-Hydrochloride Salt | Cl.ClC1=CC(=C(COC2=NSC(=C2C(=O)N)NC(=O)NCCCN2CCN(CC2)C)C(=C1)F)F | InChI=1S/C20H25ClF2N6O3S.ClH/c1-28-5-7-29(8-6-28)4-2-3-25-20(31)26-19-16(17(24)30)18(27-33-19)32-11-13-14(22)9-12(21)10-15(13)23;/h9-10H,2-8,11H2,1H3,(H2,24,30)(H2,25,26,31);1H
